US07820649B2
In a capped 20 mL scintillation vial, a mixture of 2-[6-bromo-2-(3-chlorophenyl)-4-oxo-1,4-dihydro-2H-quinazolin-3-yl]-N-tert-butylacetamide (0.51 g, 1.13 mmol) and manganese(IV) dioxide (0.44 g, 5.10 mmol) in chloroform (10 mL) was heated at 70° C. for 3 h. The black suspension was cooled to room temperature, filtered through a pad of celite and concentrated in vacuo to provide 2-[6-bromo-2-(3-chlorophenyl)-4-oxo-4H-quinazolin-3-yl]-N-tert-butylacetamide (INTERMEDIATE VI.1) (0.51 g, 1.13 mmol, 100%) as a white solid. Data for 2-[6-bromo-2-(3-chlorophenyl)-4-oxo-4H-quinazolin-3-yl]-N-tert-butylacetamide (INTERMEDIATE VI.1): 1H NMR (300 MHz, CDCl3): δ 9.44 (d, 1H), 7.86 (dd, 1H), 7.65-7.54 (m, 2H), 7.53-7.4 (m, 3H), 5.47 (s, 1H), 4.46 (s, 2H), 1.34 (s, 9H) ppm; MS (ESI) m/z: 448/450 ([M+H]+).

reactant | 2-[6-bromo-2-(3-chlorophenyl)-4-oxo-1,4-dihydro-2H-quinazolin-3-yl]-N-tert-butylacetamide | 1.13 mmol, 0.51 g | BrC=1C=C2C(N(C(NC2=CC1)C1=CC(=CC=C1)Cl)CC(=O)NC(C)(C)C)=O | C20H21BrClN3O2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV) dioxide | 5.10 mmol, 0.44 g | [O-2].[O-2].[Mn+4]
product | 2-[6-bromo-2-(3-chlorophenyl)-4-oxo-4H-quinazolin-3-yl]-N-tert-butylacetamide | 1.13 mmol, 0.51 g, 100% | BrC=1C=C2C(N(C(=NC2=CC1)C1=CC(=CC=C1)Cl)CC(=O)NC(C)(C)C)=O | C20H19BrClN3O2
